US07737166B2
4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,5-dimethyl-6-phenyl-N-pyridin-2-yl-1,3-benzoxazole-2-carboxamide (#42)
Under nitrogen atmosphere, a dimethyl sulfoxide (2 ml) solution of (3R)-3-(dimethylamino)pyrrolidine (74 μl, 581 μmol) was added at 150° C. to a dimethyl sulfoxide (17 ml) solution of 4-cyano-7-fluoro-N,5-dimethyl-6-phenyl-N-pyridin-1-yl-1,3-benzoxazole-2-carboxamide (I-116) (187 mg, 484 μmmol) and triethylamine (88 μl, 629 μmol), followed by stirring at the same temperature for 3 hours. After cooling, saturated brine was added to the reaction liquid, and the reaction liquid was extracted with ethyl acetate. Next, the combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with dichloromethane/methanol (20:1, v/v) gave the entitled compound (47 mg, 20%) as an amorphous substance.

reactant | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | (3R)-3-(dimethylamino)pyrrolidine | 581 μmol, 74 μl | CN([C@H]1CNCC1)C | C6H14N2
reactant | dimethyl sulfoxide | 17 ml | CS(=O)C | C2H6OS
reactant | 4-cyano-7-fluoro-N,5-dimethyl-6-phenyl-N-pyridin-1-yl-1,3-benzoxazole-2-carboxamide | 187 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(N2CC=CC=C2)C)F)C2=CC=CC=C2)C | C22H17FN4O2
reactant | triethylamine | 629 μmol, 88 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
product | 4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,5-dimethyl-6-phenyl-N-pyridin-2-yl-1,3-benzoxazole-2-carboxamide | 47 mg, 20% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C2=NC=CC=C2)C)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C28H28N6O2
